US08431573B2
Methyl [2-(6-methoxypyridin-3-yl)phenyl]acetate
1.35 g (5.89 mmol) of methyl (2-bromophenyl)acetate are introduced together with 1 g (6.55 mmol) of 6-methoxypyridin-3-ylboronic acid and 1.98 g (13.09 mmol) of caesium fluoride into 20 ml of 1,2-dimethoxyethane under argon. After addition of 0.22 g (0.19 mmol) of tetrakis(triphenylphosphine)palladium(0), the reaction mixture is stirred at 100° C. for 4 h. Cooling to room temperature is followed by addition of a mixture of ethyl acetate and water and extraction with ethyl acetate. After the organic phase has been dried over magnesium sulphate and the solvent has been removed in vacuo, the residue is purified by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 9:1). 1.1 g (68% of theory) of the product are obtained.

reactant | methyl (2-bromophenyl)acetate | 5.89 mmol, 1.35 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | 6-methoxypyridin-3-ylboronic acid | 6.55 mmol, 1 g | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | caesium fluoride | 13.09 mmol, 1.98 g | [F-].[Cs+]
reactant | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.19 mmol, 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl [2-(6-methoxypyridin-3-yl)phenyl]acetate | COC1=CC=C(C=N1)C1=C(C=CC=C1)CC(=O)OC | C15H15NO3
